US04263437
To 50 mg of (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide was added 0.4 g of potassium hydroxide in 4 ml of water/ethanol (1:1), and the mixture was refluxed for 3 hours. After cooling, to this was added water, and the mixture was washed with ethyl acetate. The aqueous layer was acidified with acetic acid and extracted with ethyl acetate. The extract was washed with water and then a saturated sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was distilled off to obtain a solid, which was recrystallized from acetone to give 37 mg (yield: 72%) of (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid as white needle crystals having a melting point of 181°-184° C.

reactant | (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetamide | 50 mg | O=C1C2=C(OC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)N | C15H12N2O3
reactant | potassium hydroxide | 0.4 g | [OH-].[K+]
reactant | water | O | H2O
solvent | water ethanol | 4 ml | O.C(C)O
product | (5,6-dihydro-6-oxo benzo[b]pyrido[3,2-f]oxepin-8-yl)-acetic acid | 37 mg, yield: 72% | O=C1C2=C(OC3=C(C1)C=CC=N3)C=CC(=C2)CC(=O)O | C15H11NO4
